US09085570B2
A solution of 1-bromo-4-(bromomethyl)benzene (20 g, 80.65 mmol, 1.00 equiv), dimethylamine (13.20 g, 96.80 mmol, 1.20 equiv, 33%) and potassium carbonate (13.36 g, 96.81 mmol, 1.20 equiv) in ethanol (200 mL) was stirred overnight at 50° C. The solid material was removed by filtration and the filtrate was concentrated under vacuum. The residue was dissolved in 200 mL of water and extracted with 3×200 mL of dichloromethane. The combined organic layer was washed with 3×200 mL of brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified on a silica gel column eluted with dichloromethane/methanol (20:1) to give 10 g (58%) of (4-bromophenyl)-N,N-dimethylmethanamine as a yellow oil. LC-MS: (ES, m/z): 255 [M+CH3CN+H]+, 214 [M+H]+, 169.

reactant | 1-bromo-4-(bromomethyl)benzene | 80.65 mmol, 20 g, 1.00 equiv | BrC1=CC=C(C=C1)CBr | C7H6Br2
reactant | dimethylamine | 96.80 mmol, 13.20 g, 1.20 equiv | CNC | C2H7N
reactant | potassium carbonate | 96.81 mmol, 13.36 g, 1.20 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | (4-bromophenyl)-N,N-dimethylmethanamine | 10 g, 58% | BrC1=CC=C(C=C1)CN(C)C | C9H12BrN
